US04018802
Step C. Preparation of methyl 8-methylsulfonyl-12-acetoxy-10-heptadecenoate
This compound is prepared by the procedure of Example 3, Step D, except that the methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent quantity of methyl 8-methyoxycarbonyl-8-methylsulfonyl-12-acetoxy-10-heptadecenoate.

reactant | methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate | COC(=O)C(CCCCCCC(=O)OC)(CCCC(CCCCC)OC(C)=O)S(=O)(=O)C | C23H42O8S
reactant | methyl 8-methyoxycarbonyl-8-methylsulfonyl-12-acetoxy-10-heptadecenoate | COC(=O)C(CCCCCCC(=O)OC)(CC=CC(CCCCC)OC(C)=O)S(=O)(=O)C | C23H40O8S
product | methyl 8-methylsulfonyl-12-acetoxy-10-heptadecenoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC=CC(CCCCC)OC(C)=O | C21H38O6S
